US05223498
A mixture of 3-morpholinone (4 g) in dry acetonitrile (40 ml), 4-(2-aminophenyl)morpholine (3.6 g) in dry acetonitrile (20 ml) and phosphorous oxychloride (3.6 ml) was heated for 40 hours at 65°-75° C. to give oil which was purified by column chromatography on neutral alumina (72 g) using (a) hexane, (b) dichloromethane:hexane (1:1) and (c) dichloromethane as eluant. The resulting oil was treated with a saturated solution of hydrogen chloride in methanol (25 ml) to give a pale yellow solid which was recrystallised from a 1:1 mixture of methanol and ether to give 4-[2-(3-morpholinylideneamino)phenyl]-morpholine hydrochloride (m.p. 262°-263° C.).

reactant | 3-morpholinone | 4 g | N1C(COCC1)=O | C4H7NO2
reactant | 4-(2-aminophenyl)morpholine | 3.6 g | NC1=C(C=CC=C1)N1CCOCC1 | C10H14N2O
reactant | phosphorous oxychloride | 3.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-[2-(3-morpholinylideneamino)phenyl]-morpholine hydrochloride | Cl.N1C(COCC1)=NC1=C(C=CC=C1)N1CCOCC1 | InChI=1S/C14H19N3O2.ClH/c1-2-4-13(17-6-9-18-10-7-17)12(3-1)16-14-11-19-8-5-15-14;/h1-4H,5-11H2,(H,15,16);1H
